US08557983B2
methyl 4-fluoro-2-(6-nitropyridin-3-yloxy)benzoate
To a solution of methyl 4-fluoro-2-hydroxybenzoate (23.5 g) and 2-nitro-5-chloropyridine (21.9 g) in N,N-dimethylformamide (120 mL) was added cesium carbonate (45 g). The mixture was stirred at 50° C. overnight. The mixture was diluted with ethyl acetate (800 mL) and washed three times with water and brine. After drying over Na2SO4 and filtration, the solvent was evaporated under vacuum and the residue was purified by silica gel chromatography (2% ethyl acetate in dichloromethane) to give the title compound.

reactant | methyl 4-fluoro-2-hydroxybenzoate | 23.5 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | 2-nitro-5-chloropyridine | 21.9 g | [N+](=O)([O-])C1=NC=C(C=C1)Cl | C5H3ClN2O2
reactant | cesium carbonate | 45 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-fluoro-2-(6-nitropyridin-3-yloxy)benzoate | FC1=CC(=C(C(=O)OC)C=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C13H9FN2O5
